US07053090B2
(2R,3R)-2-(t-butoxycarbonylamino)-3-hydroxy-4-methyl-N-butyl-N-[4-benzylaminocarbonyl-1-benzylpiperidin-4-yl]pentanamide
To a solution of (2R,3R)-2-(t-butoxycarbonylamino)-3-hydroxy-4-methylpentanoic acid (10.5 g) in methanol (340 ml) was added n-butylamine (4.2 ml), N-benzyl-4-piperidone (7.9 ml) and benzylisonitrile (5.2 ml). The reaction mixture was stirred overnight at 55° C. The reaction mixture was concentrated. The obtained residue was purified by column chromatography on silica gel (chloroform:methanol=100:1→75:1→50:1) to give the title compound (19.8 g) having the following physical data.

reactant | (2R,3R)-2-(t-butoxycarbonylamino)-3-hydroxy-4-methylpentanoic acid | 10.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)[C@@H](C(C)C)O | C11H21NO5
reactant | n-butylamine | 4.2 ml | C(CCC)N | C4H11N
reactant | N-benzyl-4-piperidone | 7.9 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | benzylisonitrile | 5.2 ml | C(C1=CC=CC=C1)[N+]#[C-] | C8H7N
reactant | methanol | 340 ml | CO | CH4O
product | (2R,3R)-2-(t-butoxycarbonylamino)-3-hydroxy-4-methyl-N-butyl-N-[4-benzylaminocarbonyl-1-benzylpiperidin-4-yl]pentanamide | 19.8 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1)CCCC)[C@@H](C(C)C)O | C35H52N4O5
